US06177440B1
A solution of 9-[(cyclopentyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one (730 mg, 2.24 mmol) and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (560 mg, 2.47 mmol) in 20 mL of toluene was heated at 80° C. for 3 hours. The mixture was purified directly by column chromatography on silica gel (elution with CH2Cl2) to afford 140 mg (0.433 mmol; 19%) of 9-[(cyclopentyl)methyl]-4-hydroxy-5-carbomethoxy carbazole as a yellow oil which slowly solidified. MS (ES) m/e 324 (M+1), 322 (M−1).

reactant | 9-[(cyclopentyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one | 2.24 mmol, 730 mg | C1(CCCC1)CN1C2=CC=CC(=C2C=2C(CCCC12)=O)C(=O)OC | C20H23NO3
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 2.47 mmol, 560 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 9-[(cyclopentyl)methyl]-4-hydroxy-5-carbomethoxy carbazole | 0.433 mmol, 140 mg, 19% | C1(CCCC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(=O)OC | C20H21NO3
